US06242565B1
Asp:
0.90 (1), Glu: 0.91 (1), Gly: 1.10 (1), Ile: 0.96 (1), Arg: 1.10 (1), Pro: 1.03 (1).

reactant | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Ile | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
product | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
